US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[1-(2-cyanopyridin-4-yl)piperidin-4-ylmethylamino]benzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (100 mg, 0.29 mmol), 4-chloro-2-cyanopyridine (80 mg, 0.58 mmol), triethylamine (59 mg, 0.58 mmol), and ethanol (2 mL) yielded 60 mg (46%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 0.29 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
reactant | 4-chloro-2-cyanopyridine | 0.58 mmol, 80 mg | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | triethylamine | 0.58 mmol, 59 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(5-Chloropyridin-2-yl)-2-[1-(2-cyanopyridin-4-yl)piperidin-4-ylmethylamino]benzamide | 60 mg, 46% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=CC(=NC=C1)C#N)=O | C24H23ClN6O
